data/oMe_Silver.jsonl
{"reaction_id": "NR-321_1-CC(F)(F)F_2-c1ccc(F)cc1_3-CCOC","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["OCC(F)(F)F","BrC(c1ccc(F)cc1)CCOC","[Na][H]"],"products_smiles": ["C(OCC(F)(F)F)(c1ccc(F)cc1)CCOC"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]CC(F)(F)F","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(OCC(F)(F)F)(c1ccc(F)cc1)CCOC","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
{"reaction_id": "NR-218_1-C(F)(F)F_2-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(C(F)(F)F)C(=O)C(C(F)(F)F)C(=O)OCC","O=CC(c1ccc(C(F)(F)F)cc1)","N"],"products_smiles": ["C1(C(C(F)(F)F)(C(NC(C(C(F)(F)F)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(C(F)(F)F)(C(N)C(c1ccc(C(F)(F)F)cc1))C(=O)C(C(F)(F)F)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(C(F)(F)F)(C(N=C(Cc1ccc(C(F)(F)F)cc1))C(c1ccc(C(F)(F)F)cc1))C(=O)C(C(F)(F)F)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C(F)(F)F)(C(NC(C(C(F)(F)F)1C(OCC)=O)(Cc1ccc(C(F)(F)F)cc1))(Cc1ccc(C(F)(F)F)cc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
{"reaction_id": "NR-221_1-c4ccc(OC)cc4_2-CC(C)C","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccc(OC)cc4)(CC(C)C)"],"products_smiles": ["C1(c4ccc(OC)cc4)(CC(C)C)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccc(OC)cc4)(CC(C)C)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccc(OC)cc4 and CC(C)C, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccc(OC)cc4)(CC(C)C)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccc(OC)cc4)(CC(C)C)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
